US06451804B1
To a solution of the 3-(2-chlorophenyl)-7-[trans-4-(methanesulfonylamino)cyclohexylamino]-1-[2-(trimethylsilyl)ethoxymethyl]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (290 mg, 0.5 mmol) in 5 mL methanol was added 4.0 mL of 10% aqueous hydrochloric acid. The reaction mixture was stirred at 40° C. for 24 hours, and was concentrated in vacuo. Repeated triturations of the colorless. oil with ethyl acetate gave 3-(2-chlorophenyl)-7-[trans-4-(methanesulfonylamino)cyclohexylamino]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one a white solid which was collected by vacuum filtration.

reactant | 3-(2-chlorophenyl)-7-[trans-4-(methanesulfonylamino)cyclohexylamino]-1-[2-(trimethylsilyl)ethoxymethyl]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.5 mmol, 290 mg | ClC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)N[C@@H]1CC[C@H](CC1)NS(=O)(=O)C)COCC[Si](C)(C)C)=O | C25H37ClN6O4SSi
reactant | hydrochloric acid | 4.0 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 3-(2-chlorophenyl)-7-[trans-4-(methanesulfonylamino)cyclohexylamino]-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | ClC1=C(C=CC=C1)N1C(NC2=NC(=NC=C2C1)N[C@@H]1CC[C@H](CC1)NS(=O)(=O)C)=O | C19H23ClN6O3S
